US05141955
4,4-Dimethyl-2-(2-benzylseleno-3,4-methylenedioxyphenyl)-1,3-oxazoline
To a solution of 4.4 g (0.02 mol) 4,4-dimethyl-2-(3,4-methylenedioxyphenyl)-1,3-oxazoline in 100 ml tetrahydrofuran (anhydrous) which has been cooled to 0° C. is added dropwise with stirring within 1 h 25 ml of a 1.6M n-butyllithium solution in hexane. After 30 h at 0° C. a solution of 6.2 g (0.02 mol) dibenzyl diselenide in 100 ml tetrahydrofuran (anhydrous) is added dropwise with stirring. The mixture is stirred for 2 hours at 0° C. and then treated with 20 ml water, the solvent is then removed under vacuum from the contents of the flask and the residue taken up in 100 ml dichloromethane and 100 ml water. The organic phase is separated and the solvent removed under vacuum. The crude product is purified by column chromatography (silica gel/dichloromethane).

reactant | 4,4-dimethyl-2-(3,4-methylenedioxyphenyl)-1,3-oxazoline | 0.02 mol, 4.4 g | CC1(N=C(OC1)C1=CC2=C(C=C1)OCO2)C | C12H13NO3
reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | dibenzyl diselenide | 0.02 mol, 6.2 g | C(C1=CC=CC=C1)[Se][Se]CC1=CC=CC=C1 | C14H14Se2
reactant | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4,4-Dimethyl-2-(2-benzylseleno-3,4-methylenedioxyphenyl)-1,3-oxazoline | CC1(N=C(OC1)C1=C(C2=C(C=C1)OCO2)[Se]CC2=CC=CC=C2)C | C19H19NO3Se
